US05514680
6,7-Dibromo-1,4-dihydroquinoxaline-2,3-dione.
A mixture of 4,5-dibromo-1,2-phenylenediamine (1.862 g, 7.0 mmol) and oxalic acid dihydrate (1.06 g, 8.4 mmol) in 2N HCl (100 mL) was heated at 125° C. for 2 h then allowed to cool to 25° C. The solid was collected by vacuum filtration, washed with water and dried at 40° C. under 1 mmHg for 10 h affording 2.053 g (92%) of the title compound as a light brown powder. 1H NMR (DMSO-d6) 11.995 (s, 2H), 7.361 (s, 2H).

reactant | 4,5-dibromo-1,2-phenylenediamine | 7.0 mmol, 1.862 g | BrC1=CC(=C(C=C1Br)N)N | C6H6Br2N2
reactant | oxalic acid dihydrate | 8.4 mmol, 1.06 g | O.O.C(C(=O)O)(=O)O
solvent | HCl | 2N, 100 mL | Cl | ClH
product | 6,7-Dibromo-1,4-dihydroquinoxaline-2,3-dione | 2.053 g, 92% | BrC=1C=C2NC(C(NC2=CC1Br)=O)=O | C8H4Br2N2O2
